US07160854B2
To a solution of 4-methylcyclohexanone (5.47 mL, 44.6 mmol), cyclohexane (70 mL) and glacial acetic acid (50 mL) was added 4-bromophenylhydrazine hydrochloride (10.0 g, 44.6 mmol) and the reaction mixture was refluxed for 23 h under a nitrogen atmosphere. The cooled reaction mixture was filtered and the filtrate was evaporated. Diethyl ether was added and the mixture was washed with a saturated sodium bicarbonate solution and then water; the ether solution was dried and evaporated. The crude product was recrystallised from ethanol over an ice bath, filtered, washed with cold PS and dried in vacuo to afford 6-bromo-3-methyl-1,2,3,4-tetrahydrocarbazole (8.73 g, 33.1 mmol, 74%) as an off-white solid, mp 108–110° C.

reactant | 4-methylcyclohexanone | 44.6 mmol, 5.47 mL | CC1CCC(CC1)=O | C7H12O
reactant | cyclohexane | 70 mL | C1CCCCC1 | C6H12
reactant | 4-bromophenylhydrazine hydrochloride | 44.6 mmol, 10.0 g | Cl.BrC1=CC=C(C=C1)NN
solvent | acetic acid | 50 mL | C(C)(=O)O | C2H4O2
product | 6-bromo-3-methyl-1,2,3,4-tetrahydrocarbazole | 33.1 mmol, 8.73 g, 74% | BrC=1C=C2C=3CC(CCC3NC2=CC1)C | C13H14BrN
